US09227971B2
The tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate (31 mg) was treated with 4N HCl in H2O (2 mL) and Dixoane (2 mL) until the disappearance of starting material in LCMS. Concentration afforded crude 1-(7-amino-5-(3,8-diazabicyclo[3.2.1]octan-3-yl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-6-yl)ethanone, which was used for next step without further purification, LCMS tR=1.08 Min (10 min run, UV254nm). Mass calculated for, M+H 440.2, observed LC/MS m/z 440.2 (M+H).

reactant | tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | 31 mg | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)N2CC1CCC(C2)N1C(=O)OC(C)(C)C)C(=C)OCC)COCC[Si](C)(C)C)(C)C | C44H65N7O5Si2
reactant | HCl | 4N | Cl | ClH
solvent | H2O | 2 mL | O | H2O
product | 1-(7-amino-5-(3,8-diazabicyclo[3.2.1]octan-3-yl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-6-yl)ethanone | NC1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)N2CC1CCC(C2)N1)C(C)=O | C25H25N7O
